US06642229B2
3-Bromo-7-trifluoromethylimidazo[1,2-a]pyrimidine was coupled with 4-fluoro-3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 1 to give 4-fluoro-3′-(7-trifluoromethylimidazo[1,2-a]pyrimidin-3-yl)biphenyl-2-carbonitrile (220 mg, 57%) as a yellow powder: δH (400 MHz, CDCl3) 7.29 (1H, d, J 7), 7.45 (1H, ddd, J 8, 1 and 1), 7.53 (1H, dd, J 8 and 3), 7.55-7.61 (2H, m), 7.65-7.67 (1H, m), 7.70-7.75 (1H, m), 7.77 (1H, s), 8.14 (1H, s), 9.14 (1H, d, J 7); m/z (ES+) 383 (M++H).

reactant | 3-Bromo-7-trifluoromethylimidazo[1,2-a]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
reactant | 4-fluoro-3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | FC=1C=C(C(=CC1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C#N | C19H19BFNO2
product | 4-fluoro-3′-(7-trifluoromethylimidazo[1,2-a]pyrimidin-3-yl)biphenyl-2-carbonitrile | 220 mg, 57% | FC=1C=C(C(=CC1)C1=CC(=CC=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C#N | C20H10F4N4
